US09029639B2
2-Methyl-thiazole-4-carboxylic acid methyl-pyridazin-4-yl-amide
250 mg (1.8 mmol) of 2-Methyl-thiazole-4-carboxylic acid were suspended in 20 mL of toluene and two drops of dimethylformamide were added to the mixture. 0.16 mL of thionylchloride (2.2 mmol) were added at room temperature and the reaction mixture was stirred at 65° C. for two hours. After removal of the solvent, toluene was added and the evaporation was repeated. The obtained residue was then dissolved in 10 mL of dichloromethane and the solution was added dropwise to a solution containing 166 mg pyridazin-4-yl-amine (1.8 mmol) and 0.27 ml triethyl amine (1.9 mmol) in 40 ml dichloromethane. The mixture was stirred at room temperature for 16 h and the solvent was removed under vacuum. The obtained residue was purified by flash column chromatography (silica, gradient elution cyclohexane, ethyl acetate, methanol) to give 50 mg (13%, 99% purity) of the title compound.

reactant | 2-Methyl-thiazole-4-carboxylic acid | 1.8 mmol, 250 mg | CC=1SC=C(N1)C(=O)O | C5H5NO2S
reactant | thionylchloride | 2.2 mmol, 0.16 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridazin-4-yl-amine | 1.8 mmol, 166 mg | N1=NC=C(C=C1)N | C4H5N3
reactant | triethyl amine | 1.9 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | two drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-Methyl-thiazole-4-carboxylic acid methyl-pyridazin-4-yl-amide | CN(C(=O)C=1N=C(SC1)C)C1=CN=NC=C1 | C10H10N4OS
